US05089505
(Benzodioxepan-7-yl)acetic acid
A mixture of 3,4-dihydroxyphenylacetic acid (5.0 g), 1,3-dibromopropane (7.2 g) and potassium hydroxide (7.3 g) in water (25 ml) was heated under reflux for 17 hours, acidified to pH 1 with 2M hydrochloric acid and extracted several times into methylene chloride. The combined organic extracts were dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica (75 g) using methylene chloride plus 0-2% acetic acid as the eluant. Appropriate fractions were combined and evaporated and the residue was taken up in methylene chloride and extracted into 5% aqueous sodium carbonate solution. The basic extract was washed with methylene chloride, acidified to pH 1 with 5M hydrochloric acid and extracted into methylene chloride. The organic extract was dried over magnesium sulphate and evaporated to give the title compound as a colourless solid (1.4 g, 23%), m.p. 99°-101°.

reactant | 3,4-dihydroxyphenylacetic acid | 5.0 g | OC=1C=C(C=CC1O)CC(=O)O | C8H8O4
reactant | 1,3-dibromopropane | 7.2 g | BrCCCBr | C3H6Br2
reactant | potassium hydroxide | 7.3 g | [OH-].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | water | 25 ml | O | H2O
product | (Benzodioxepan-7-yl)acetic acid | 1.4 g, 23% | O1OCCCC2=C1C=CC(=C2)CC(=O)O | C11H12O4
